US06080773
To a stirred solution of 631 mg of 3-[2-(2-azido-4-pentenyl)phenyl]-1,2-benzisoxazole in 10 ml of anhydrous tetrahydrofuran at -40° C. under a nitrogen atmosphere was added 2.07 ml of a 1 M solution of lithium aluminium hydride in diethyl ether. The reaction mixture was warmed to room temperature then heated to 60° C. for 1 h. After cooling to room temperature and careful quenching with 4 N sodium hydroxide, 50 ml of water was added and the product extracted with 100 ml then 50 ml of dichloromethane. The combined organic extracts were dried over sodium sulfate and the solvent removed by evaporation to give crude product which was purified by chromatography on silica gel eluting with 10% methanol in dichloromethane, to give 315 mg of 3-[2-(2-amino-4-pentenyl)phenyl]-1,2-benzisoxazole. The product was dissolved in 1 ml of methanol and 131 mg of fumaric acid was added. Addition of diethyl ether and cooling to 4° C. led to crystallisation of 313 mg of 3-[2-(2-amino-4-pentenyl)phenyl]-1,2-benzisoxazole (E)-edioate, melting at 170-172° C.

reactant | 3-[2-(2-azido-4-pentenyl)phenyl]-1,2-benzisoxazole | 631 mg | N(=[N+]=[N-])C(CC1=C(C=CC=C1)C1=NOC2=C1C=CC=C2)CC=C | C18H16N4O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[2-(2-amino-4-pentenyl)phenyl]-1,2-benzisoxazole | 315 mg | NC(CC1=C(C=CC=C1)C1=NOC2=C1C=CC=C2)CC=C | C18H18N2O
